US03971809
A solution of 0.4 g (1.12 mmoles) of (+)-17β-tert.butoxy-13 β-ethyl-3-methoxygona-1,3,5(10)-triene and 0.1 g of p-toluenesulfonic acid monohydrate in 10 ml of toluene was stirred and heated at reflux for 1 hr. The resulting solution was cooled and treated with saturated aqueous sodium bicarbonate solution then extracted twice with ether. The combined organic extracts were dried, filtered and concentrated in vacuo giving 0.348 g of (+)-17β-hydroxy-13β-ethyl-3-methoxygona-1,3,5(10)-triene as a colorless solid.

reactant | (+)-17β-tert.butoxy-13 β-ethyl-3-methoxygona-1,3,5(10)-triene | 1.12 mmoles, 0.4 g | C(C)(C)(C)O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C24H36O2
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-17β-hydroxy-13β-ethyl-3-methoxygona-1,3,5(10)-triene | 0.348 g | O[C@H]1CC[C@H]2[C@H]3[C@H](CC[C@]12CC)C=1C=CC(=CC1CC3)OC | C20H28O2
